US09029409B2
To a stirred suspension of 6-((hydroxyimino)methyl)-N-(4-methoxybenzyl)-2-methylpyrimidine-4-carboxamide (0.15 g, 0.50 mmol, Preparation #B.1.1) and styrene (0.057 g, 0.50 mmol) in DCM (10 mL) was added 4% sodium hypochlorite solution (1.5 mL, Sd Fine Chem.) drop wise for about 10 min at RT and stirred for about another 2 h. The reaction mixture was diluted with water (50 mL) and the product extracted with DCM (3×25 mL). The organic layer was dried over sodium sulphate and evaporated to dryness under reduced pressure. The resulting mixture was purified by silica gel (60-120 mesh) chromatography eluting with 20 to 30% of EtOAc in hexane. Relevant fractions containing the target compound were combined and evaporated to dryness under reduced pressure to afford N-(4-methoxybenzyl)-2-methyl-6-(5-phenyl-4,5-dihydroisoxazol-3-yl)pyrimidine-4-carboxamide as a white solid 0.07 g (34%). LC/MS (Table 1, method-b) Rt=1.93 min; MS m/z: 403 (M+H).

reactant | 6-((hydroxyimino)methyl)-N-(4-methoxybenzyl)-2-methylpyrimidine-4-carboxamide | 0.50 mmol, 0.15 g | ON=CC1=CC(=NC(=N1)C)C(=O)NCC1=CC=C(C=C1)OC | C15H16N4O3
reactant | styrene | 0.50 mmol, 0.057 g | C=CC1=CC=CC=C1 | C8H8
reactant | sodium hypochlorite | 1.5 mL | Cl[O-].[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | N-(4-methoxybenzyl)-2-methyl-6-(5-phenyl-4,5-dihydroisoxazol-3-yl)pyrimidine-4-carboxamide | 0.07 g, 34% | COC1=CC=C(CNC(=O)C2=NC(=NC(=C2)C2=NOC(C2)C2=CC=CC=C2)C)C=C1 | C23H22N4O3
